US04307099
B. (S)-1-(3-Mercapto-2-methyl-1-oxopropyl)-L-proline, (5,6-dihydro-5-oxopyrazolo-[1,5-c]quinazolin-2-yl)methyl ester
A mixture of 4.56 g (0.01 M) of (S)-1-[3-(acetylthio)-2-methyl-1-oxopropyl]-L-proline, (5,6-dihydro-5-oxopyrazolo[1,5-c]-quinazolin-2-yl)-methyl ester and 200 cc 1.25 N of methanolic ammonia is stirred at room temperature under nitrogen for 2 hours. A clear solution forms after about 10 minutes. The solution is concentrated to dryness at 15 mm and 30° and the residue (4.4 g) dissolved in 250 cc 50% CHCl3 --CH2Cl2, washed with 2×150 cc H2O (to remove acetamide) and dried over MgSO4. The solution is concentrated to yield 3 g (75%) product, m.p. 140°-142° d.

reactant | (S)-1-[3-(acetylthio)-2-methyl-1-oxopropyl]-L-proline, (5,6-dihydro-5-oxopyrazolo[1,5-c]-quinazolin-2-yl)-methyl ester | 0.01 M, 4.56 g | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)OCC2=NN3C(NC=4C=CC=CC4C3=C2)=O)CCC1)C | C22H24N4O5S
solvent | ammonia | 1.25 N, 200 cc | N | H3N
product | (S)-1-(3-Mercapto-2-methyl-1-oxopropyl)-L-proline, (5,6-dihydro-5-oxopyrazolo-[1,5-c]quinazolin-2-yl)methyl ester | 3 g, 75% | SCC(C(=O)N1[C@H](C(=O)OCC2=NN3C(NC=4C=CC=CC4C3=C2)=O)CCC1)C | C20H22N4O4S
